US07790724B2
d) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-ethoxy-vinyl)-pyridin-3-yl]-amide
To a round bottom flask containing 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [6-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide (as prepared in the previous step, 32 mg, 0.060 mmol), Pd(PPh3)4 (7 mg, 0.006 mmol), and tributyl-(1-ethoxy-vinyl)-stannane (30 mg, 0.080 mmol) was added DMF (0.7 mL) and the resultant solution was allowed to stir at 100° C. overnight. The reaction was diluted with EtOAc (25 mL), washed with water (2×25 mL), dried (Na2SO4) and concentrated in vacuo. Purification of the residue by preparative TLC (20% EtOAc-hexanes) afforded 12 mg (43%) of the title compound as an oil. Mass spectrum (ESI, m/z): Calcd. for C28H39N5O3Si, 522.2 (M+H), found 522.3.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [6-bromo-2-(4,4-dimethyl-cyclohex-1-enyl)-pyridin-3-yl]-amide | BrC1=CC=C(C(=N1)C1=CCC(CC1)(C)C)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C24H32BrN5O2Si
reactant | tributyl-(1-ethoxy-vinyl)-stannane | 0.080 mmol, 30 mg | C(CCC)[Sn](C(=C)OCC)(CCCC)CCCC
reactant | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.006 mmol, 7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [2-(4,4-dimethyl-cyclohex-1-enyl)-6-(1-ethoxy-vinyl)-pyridin-3-yl]-amide | 12 mg, 43% | CC1(CC=C(CC1)C1=NC(=CC=C1NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C(=C)OCC)C | C28H39N5O3Si
